US07700786B2
Reaction of 5-methyl-3-(4-methyl-5-nitropyridin-2-yloxy)pyrazole with ethyl isocyanate was carried out in the presence of triethylamine in the same manner as in Example 130, to give a yellow viscous substance of N-ethyl-5-methyl-3-(4-methyl-5-nitropyridin-2-yloxy)pyrazole-1-carboxamide (yield: 19.3%). 1H-NMR (CDCl3, TMS, ppm): δ 1.23 (t, J=7.3 Hz, 3H), 2.65 (d, J=0.7 Hz, 3H), 2.70 (s, 3H), 3.40 (dq, J=5.9 and 7.3 Hz, 2H), 6.03 (q, J=0.7 Hz, 1H), 6.95 (s, 1H), 6.99 (br s, 1H), 8.92 (s, 1H).

reactant | 5-methyl-3-(4-methyl-5-nitropyridin-2-yloxy)pyrazole | CC1=CC(=NN1)OC1=NC=C(C(=C1)C)[N+](=O)[O-] | C10H10N4O3
reactant | ethyl isocyanate | C(C)N=C=O | C3H5NO
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | N-ethyl-5-methyl-3-(4-methyl-5-nitropyridin-2-yloxy)pyrazole-1-carboxamide | yield: 19.3% | C(C)NC(=O)N1N=C(C=C1C)OC1=NC=C(C(=C1)C)[N+](=O)[O-] | C13H15N5O4
